US04490369
7-Nitro-8-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
765 mg (4 mmol) of 8-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one were added to a mixture of 15 ml of concentrated nitric acid and 1.5 ml of fuming nitric acid at a temperature between 3° and 5° C., while stirring. After stirring at this temperature for 30 minutes more, the mixture was poured into ice water, and the aqueous mixture was neutralized with potassium carbonate. The precipitate formed thereby was suction-filtered off, washed with water and dried. The yellow crystals were purified by chromatography on silica gel, using ethyl acetate as the eluant, to separate the corresponding 9-nitro- and 7,9-dinitro-isomers.

reactant | 8-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 4 mmol, 765 mg | COC=1C=CC2=C(CC(NCC2)=O)C1 | C11H13NO2
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 1.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 7-Nitro-8-methoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | [N+](=O)([O-])C1=CC2=C(CC(NCC2)=O)C=C1OC | C11H12N2O4
